US05962458
A solution of 1-[3-(tetrahydropyran-2-yloxy)propyl]-1,4-dihydro4-pyridone (0.75 g, 3.16 mmol) in acetic acid (8 ml), THF (4 ml) and water (4 ml) was heated at 50° C. for 4 hours. The volatiles were removed by evaporation to give 1-(3-hydroxypropyl)-l,4-dihydro-4-pyridone (480 mg, 99%) as an off-white solid.

reactant | 1-[3-(tetrahydropyran-2-yloxy)propyl]-1,4-dihydro4-pyridone | 3.16 mmol, 0.75 g | O1C(CCCC1)OCCCN1C=CC(C=C1)=O | C13H19NO3
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 1-(3-hydroxypropyl)-l,4-dihydro-4-pyridone | 480 mg, 99% | OCCCN1C=CC(C=C1)=O | C8H11NO2
